US08114877B2
AB1) Bis-(4-methoxy-phenyl)-methanone Oxime
4,4′-Dimethoxybenzophenone (25 g, 103 mmol) is suspended in ethanol (150 mL) and pyridine (30 mL). Hydroxylamine hydrochloride (21.50 g, 310 mmol) is added and the reaction mixture is refluxed for 3 hours. The reaction mixture is allowed to cool and the solvent is removed in vacuo. The residue is partitioned between ethyl acetate (500 mL) and water (500 mL). The organic layer dried is over MgSO4, filtered and the solvent removed in vacuo. The title compound is obtained following crystallisation from ethylacetate/cyclohexane. 1H nmr (CDCl3, 400 MHz); 7.70 (s, 1H), 7.40 (d of d, 4H), 6.95 (d, 2H), 6.85 (d, 2H), 3.85 (s, 3H), 3.80 (s, 3H).

reactant | 4,4′-Dimethoxybenzophenone | 103 mmol, 25 g | COC1=CC=C(C(=O)C2=CC=C(C=C2)OC)C=C1 | C15H14O3
reactant | Hydroxylamine hydrochloride | 310 mmol, 21.50 g | Cl.NO
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | Bis-(4-methoxy-phenyl)-methanone Oxime | COC1=CC=C(C=C1)C(=NO)C1=CC=C(C=C1)OC | C15H15NO3
